US06489344B1
A mixture of 4-(2-imidazolylacetyl)benzenecarbonitrile (0.30 M) and N,N-dimethylformamide dimethyl acetal (DMFDMA) (80 ml) was stirred for 12 h at 75° C. The DMFDMA was then removed under reduced pressure and dried under high vacuum for several hours giving an orange-yellow solid 4-[(2E)-3-(dimethylamino)-2-imidazolylprop-2-enoyl]benzenecarbonitrile in quantitative yield. The enaminone product was typically used without further purification.

reactant | 4-(2-imidazolylacetyl)benzenecarbonitrile | 0.30 M | N1C(=NC=C1)CC(=O)C1=CC=C(C=C1)C#N | C12H9N3O
reactant | N,N-dimethylformamide dimethyl acetal | 80 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[(2E)-3-(dimethylamino)-2-imidazolylprop-2-enoyl]benzenecarbonitrile | quantitative yield | CN(/C=C(/C(=O)C1=CC=C(C=C1)C#N)\C=1NC=CN1)C | C15H14N4O
